US06969711B2
To a solution of 1-(3-hydroxypropyl)piperazine (700 mg, 4.88 mmol) in acetonitrile (15 ml) were added potassium carbonate (805 mg, 5.82 mmol) and 2-bromo-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide (1.53 g, 4.88 mmol), and the mixture was stirred at room temperature for 1 hour. To the reaction solution was added a saturated ammonium chloride solution and the mixture was extracted with chloroform-methanol mixture solvent. The organic layer was washed with water and a saturated sodium chloride successively and dried over anhydrous sodium sulfate, and the solvent was evaporated therefrom. The resulting residue was recrystallized from chloroform-methanol-hexane to provide 1.13 g (yield 62%) of 2-[4-(3-hydroxypropyl)piperazin-1-yl]-N-[2,6-diisopropyl-4-hydroxyphenyl]acetamide as colorless powdery crystals.

reactant | 1-(3-hydroxypropyl)piperazine | 4.88 mmol, 700 mg | OCCCN1CCNCC1 | C7H16N2O
reactant | potassium carbonate | 5.82 mmol, 805 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide | 4.88 mmol, 1.53 g | BrCC(=O)NC1=C(C=C(C=C1C(C)C)O)C(C)C | C14H20BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-[4-(3-hydroxypropyl)piperazin-1-yl]-N-[2,6-diisopropyl-4-hydroxyphenyl]acetamide | 1.13 g, yield 62% | OCCCN1CCN(CC1)CC(=O)NC1=C(C=C(C=C1C(C)C)O)C(C)C | C21H35N3O3
